US08022062B2
Use a method similar to the General Procedure 3 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (425 mg, 1 mmol) with 1-tert-butyl-3-prop-2-ynyl-imidazolidin-2-one (360 mg, 2 mmol). Purify by chromatography on silica gel eluting with isohexane/EtOAc (19:1 to 3:2 gradient) to give 6-[3-(3-tert-butyl-2-oxo-imidazolidin-1-yl)-prop-1-ynyl]-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (380 mg, 83%) as a yellow oil. LC-MS (ES+) m/z: 478 (M+Na)+, 456 (M+H)+, tR=4.43 min.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1 mmol, 425 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 1-tert-butyl-3-prop-2-ynyl-imidazolidin-2-one | 2 mmol, 360 mg | C(C)(C)(C)N1C(N(CC1)CC#C)=O | C10H16N2O
product | 6-[3-(3-tert-butyl-2-oxo-imidazolidin-1-yl)-prop-1-ynyl]-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 380 mg, 83% | C(C)(C)(C)N1C(N(CC1)CC#CC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl)=O | C22H25ClF3N3O2
